US04927926
6.3 g (55.0 mmoles) of mesyl chloride are slowly added to a solution of 1.0 g (2.75 mmoles) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 50 ml of pyridine cooled to 0° C., and the reaction is maintained at 0° C. for 3 hours. The solution is added to a mixture of ice and water giving a precipitate which is filtered and washed with water. The solid is dried under vacuum yielding 0.9 g (73%) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-mesyloxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate melting at 191°-193° C.

reactant | mesyl chloride | 55.0 mmoles, 6.3 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 2.75 mmoles, 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)OCC | C18H18F2N2O4
reactant | water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-mesyloxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.9 g, 73% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)OS(=O)(=O)C)F)=O)C(=O)OCC | C19H20F2N2O6S
